US06972287B1
Preparation of 2-{4-[3-(3,4-Dichlorophenyl)propyl]phenylamino}-benzoic acid methyl ester
The title compound was prepared from 4-[3-(3,4-dichlorophenyl)propyl]-phenylamine (600 mg, 2.14 mmol), 2-bromobenzoic acid methyl ester (380 mg, 1.78 mmol), cesium carbonate (812 mg, 2.49 mmol), tris(dibenzylideneacetone-dipaladium(0) (49 mg, 0.053 mmol) and (S)-2,2′-bis(di-p-tolylphosphino-1,1′-binaphthyl (98%, (S)-tol-BINAP) (54 mg, 0.080 mmol) (Ligand/Pd=1.5) in anhydrous toluene (15 mL) using the procedure described in Example 2, Step C. This procedure yielded an yellow oil, 0.61 g (1.47 mmol, 69%) of the desired product.

reactant | 4-[3-(3,4-dichlorophenyl)propyl]-phenylamine | 2.14 mmol, 600 mg | ClC=1C=C(C=CC1Cl)CCCC1=CC=C(C=C1)N | C15H15Cl2N
reactant | 2-bromobenzoic acid methyl ester | 1.78 mmol, 380 mg | COC(C1=C(C=CC=C1)Br)=O | C8H7BrO2
reactant | cesium carbonate | 2.49 mmol, 812 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd | [Pd] | Pd
catalyst | di-p-tolylphosphino-1,1′-binaphthyl | 0.080 mmol, 54 mg | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C | C34H27P
product | 2-{4-[3-(3,4-Dichlorophenyl)propyl]phenylamino}-benzoic acid methyl ester | 1.47 mmol, 0.61 g, 69% | COC(C1=C(C=CC=C1)NC1=CC=C(C=C1)CCCC1=CC(=C(C=C1)Cl)Cl)=O | C23H21Cl2NO2
